US07250522B2
To a mixture of 1,3-dimethoxybenzene (6.9 g, 50 mmol) and tetrahydrofuran (70 mL), n-butyllithium (1.57 M in hexane, 35 mL) was added in ice and stirred for 1.5 hours. Subsequently, 4-ethylbenzyl bromide (10 g, 50 mmol) was added in ice and stirred for an additional 3.5 hours. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate, and the organic phase was washed with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5–85:15) to give 1,3-dimethoxy-2-(4-ethylbenzyl)benzene (6.37 g, 49%, mp 62.5–66.5° C.) as a light-yellow powder.

reactant | 1,3-dimethoxybenzene | 50 mmol, 6.9 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | n-butyllithium | 1.57 M, 35 mL | C(CCC)[Li]
reactant | 4-ethylbenzyl bromide | 50 mmol, 10 g | C(C)C1=CC=C(CBr)C=C1 | C9H11Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1,3-dimethoxy-2-(4-ethylbenzyl)benzene | 6.37 g, 49% | COC1=C(C(=CC=C1)OC)CC1=CC=C(C=C1)CC | C17H20O2
